US08541588B2
tert-butyl ({4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyanophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate
tert-butyl {[4-(4-chloro-2-{1-[1-(diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}phenoxy)-3-cyanophenyl]sulfonyl}1,3-thiazol-4-ylcarbamate, (Preparation 680, 224 mg, 0.287 mmol) was dissolved in dichloromethane (10 ml) and N,N,N′,N′-tetramethylnaphthalene-1,8-diamine (150 mg, 0.70 mmol) was added, followed by 1-chloroethyl chloroformate (0.07 ml, 0.65 mmol) and the solution was stirred at room temperature for 3.5 hours. Concentrated in vacuo and the residue was dissolved in methanol (10 ml) and refluxed for 4 hours. Concentrated in vacuo to give the crude title compound as a brown gum, 200 mg. This material was used without purification in Example 815.

reactant | tert-butyl {[4-(4-chloro-2-{1-[1-(diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}phenoxy)-3-cyanophenyl]sulfonyl}1,3-thiazol-4-ylcarbamate | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)C#N)C=C1)C1=CC=NN1C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C40H35ClN6O5S2
reactant | N,N,N′,N′-tetramethylnaphthalene-1,8-diamine | 0.70 mmol, 150 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 0.65 mmol, 0.07 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl ({4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyanophenyl}sulfonyl)1,3-thiazol-4-ylcarbamate | N1CC(C1)N1N=CC=C1C1=C(OC2=C(C=C(C=C2)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)C#N)C=CC(=C1)Cl | C27H25ClN6O5S2
